US08685986B2
4-(a) 4-(Thiazol-2-yl)benzyl Alcohol
To 4-(thiazol-2-yl)benzaldehyde (see JP 2001-519414A) (1.57 g, 8.30 mmol) were added ethanol (20 ml), tetrahydrofuran (0.46 ml), and then sodium borohydride (157 mg, 4.15 mmol), followed by stirring at room temperature for 1.5 hours. After completion of the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=2:1→1:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (1.49 g) as a white solid. (Yield: 94%)

reactant | 4-(thiazol-2-yl)benzaldehyde | 8.30 mmol, 1.57 g | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 0.46 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 4.15 mmol, 157 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | 4-(Thiazol-2-yl)benzyl Alcohol | 1.49 g, Yield: 94% | S1C(=NC=C1)C1=CC=C(CO)C=C1 | C10H9NOS
